US07345180B2
2-Methylbenzoxazole-6-carboxylic acid
4-Amino-3-hydroxybenzoic acid (4.9 g) was added to acetic acid (250 ml) and stirred for 3 days at 130° C. The solution was concentrated under reduced pressure, and precipitates were collected by filtration. The precipitates were dissolved in methanol and chloroform. The solution was concentrated under reduced pressure, and precipitates were collected by filtration, washed with methanol and dried under reduced pressure to give the title compound (3.5 g, Y.:62%).

reactant | 4-Amino-3-hydroxybenzoic acid | 4.9 g | NC1=C(C=C(C(=O)O)C=C1)O | C7H7NO3
reactant | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | 2-Methylbenzoxazole-6-carboxylic acid | 3.5 g, 62% | CC=1OC2=C(N1)C=CC(=C2)C(=O)O | C9H7NO3
